US09353096B2
(R)-2-(4-Fluoro-3-(trifluoromethyl)phenyl)-2-hydroxyethyl 4-methylbenzenesulfonate (3.5 g, 9.25 mmol) was dissolved in 20 mL of DMSO. Sodium azide (1.2 g, 18.5 mmol) was added and the mixture was stirred at 80° C. for 3 h. The clear solution was cooled to room temperature and extracted with ethyl acetate and water. The organic layer was dried and concentrated to give (R)-2-azido-1-(4-fluoro-3-trifluoromethylphenyl)-ethanol as a pale brown oil (2.27 g) which was used as is in the next step.

reactant | (R)-2-(4-Fluoro-3-(trifluoromethyl)phenyl)-2-hydroxyethyl 4-methylbenzenesulfonate | 9.25 mmol, 3.5 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](O)C1=CC(=C(C=C1)F)C(F)(F)F | C16H14F4O4S
reactant | Sodium azide | 18.5 mmol, 1.2 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (R)-2-azido-1-(4-fluoro-3-trifluoromethylphenyl)-ethanol | 2.27 g | N(=[N+]=[N-])C[C@H](O)C1=CC(=C(C=C1)F)C(F)(F)F | C9H7F4N3O
